US04695569
To a stirred mixture of 5.3 parts of 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidineethanol dihydrochloride, 2.8 parts of a sodium hydride dispersion 50% and 90 parts of N,N-dimethylformamide were added 2.55 parts of 2-(methylsulfonyl)thiazolo[5,4-b]pyridine. The whole was stirred for 2 hours. The reaction mixture was poured into water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, hexane and methanol (45:45:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 0.9 parts (15%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(thiazolo[5,4-b]pyridin-2-yl)oxy]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 151.0° C. (compound 107).

reactant | 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidineethanol dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCO
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-(methylsulfonyl)thiazolo[5,4-b]pyridine | CS(=O)(=O)C=1SC2=NC=CC=C2N1 | C7H6N2O2S2
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(thiazolo[5,4-b]pyridin-2-yl)oxy]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 15% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCOC=2SC1=NC=CC=C1N2 | C27H27FN6OS
